US08404709B2
3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl ethane-sulfonate
133 mg (0.367 mmol) of 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one are suspended in pyridine (5 ml), and 700 (0.73 mmol) of ethanesulfonyl chloride are added. The suspension is stirred at RT for 3 h (during which the precursor dissolves), and then mixed with methanol and concentrated. The residue is purified by preparative HPLC to result in 63 mg (43% of theory) of the title compound as a white solid.

reactant | 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one | 0.367 mmol, 133 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C=1C=CC=C2C(C=C(OC12)C)=O)=O)C | C21H18N2O4
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | methanol | CO | CH4O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl ethane-sulfonate | C(C)S(=O)(=O)OC1=C2C(C(=C(NC2=CC=N1)C)C(C)=O)C=1C=CC=C2C(C=C(OC12)C)=O | C23H22N2O6S
